US07691882B2
Tributyl-ethoxymethyl-tin
To a mixture of diisopropylamine (2.1 mL, 15 mmol) and tetrahydrofuran (30 mL) was added dropwise n-butyl lithium (2.4 M n-hexane solution, 5.0 mL, 12 mmol) at −78° C., and then the reaction mixture was stirred for 30 minutes. Tributyltin hydride (3.3 mL, 12 mmol) was added dropwise to this mixture at −78° C., and then the reaction mixture was stirred for 40 minutes at 0° C. The reaction mixture was cooled to −78° C., after which ethoxymethyl chloride (1.1 mL, 12 mmol) was added dropwise to the reaction mixture. The reaction mixture was raised to room temperature, diethyl ether and an ammonium chloride aqueous solution were added to the reaction mixture, and the organic layer was separated. The organic layer was washed with saturated aqueous sodium chloride, after which the organic layer was concentrated under a reduced pressure. The residue was purified by neutral silica gel column chromatography (heptane:diethyl ether=30:1) to obtain the title compound (2.8 g, 66%).

reactant | diisopropylamine | 15 mmol, 2.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 12 mmol, 2.4 M, 5.0 mL | C(CCC)[Li]
reactant | Tributyltin hydride | 12 mmol, 3.3 mL | C(CCC)[SnH](CCCC)CCCC
reactant | ethoxymethyl chloride | 12 mmol, 1.1 mL | C(C)OCCl | C3H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Tributyl-ethoxymethyl-tin | 2.8 g, 66% | C(CCC)[Sn](COCC)(CCCC)CCCC | InChI=1S/3C4H9.C3H7O.Sn/c4*1-3-4-2;/h3*1,3-4H2,2H3;2-3H2,1H3;
